US06465467B1
Step 1: 3,4-Dihydro-3-oxo-2H-pyrido[3,2-b]-1,4-oxazin-2-carboxylic Acid Ethyl Ester.
Diethyl chloromalonate (9.73 g, 50 mmol) was added to a stirred mixture of 3-hydroxy-2-aminopyridine (5.51 g, 50 mmol), triethylamine (6.97 mL, 50 mmol) and EtOH (100 mL) at room temperature. The mixture was heated at reflux for 17 h and allowed to attain room temperature. The precipitate formed was filtered off, washed with EtOH and dried to give the product as a white solid: yield 3.85 g (35%); mp 160-162° C. Anal. (C10H10N2O4) C, H, N.

reactant | Diethyl chloromalonate | 50 mmol, 9.73 g | ClC(C(=O)OCC)C(=O)OCC | C7H11ClO4
reactant | 3-hydroxy-2-aminopyridine | 50 mmol, 5.51 g | OC=1C(=NC=CC1)N | C5H6N2O
reactant | triethylamine | 50 mmol, 6.97 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3,4-Dihydro-3-oxo-2H-pyrido[3,2-b]-1,4-oxazin-2-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1C(NC2=C(O1)C=CC=N2)=O | C10H10N2O4
